US07192970B2
Preparation of 4-[2-(6-quinolinoxy)ethoxy]benzaldehyde
To a solution of potassium hydroxide (0.67 g, 9.80 mmol) in ethanol (30 ml) is added 6-quinolinol (1.42 g, 9.80 mmol) and 4-(2-bromoethoxy)benzaldehyde (2.25 g, 9.80 mmol). Then the mixture is heated to reflux for 8 hours. After cooled to −5° C., the precipitate is collected by filtration, washed with water, and dried under vacuum to give the title product (1.26 g, 44%).

reactant | potassium hydroxide | 9.80 mmol, 0.67 g | [OH-].[K+]
reactant | 6-quinolinol | 9.80 mmol, 1.42 g | N1=CC=CC2=CC(=CC=C12)O | C9H7NO
reactant | 4-(2-bromoethoxy)benzaldehyde | 9.80 mmol, 2.25 g | BrCCOC1=CC=C(C=O)C=C1 | C9H9BrO2
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | 4-[2-(6-quinolinoxy)ethoxy]benzaldehyde | 1.26 g, 44% | N1=CC=CC2=CC(=CC=C12)OCCOC1=CC=C(C=O)C=C1 | C18H15NO3
